US07563908B2
(2-Mercapto-benzyl)-methyl-carbamic acid tert-butyl ester (1.85 g, 7.30 mmol) in dry toluene (15 mL) is placed in an Emrys Optimizer EXP 20 mL tube. Tris(dibenzylideneacetone) dipalladium (334 mg, 0.37 mmol), bis(2-diphenylphosphinophenyl)ether (197 mg, 0.37 mmol), tert-butyl-5-bromoindole-1-carboxylate (2.38 g, 8.03 mmol) and potassium tert-butoxide (860 mg, 7.67 mmol) are added. The reaction vessel is sealed and subjected to microwave heating at 160° C. for 15 minutes. Upon cooling the mixture is poured onto a plug of silica and the product is eluted with ethyl acetate-heptane (1:4). 0.67 g (20%) of 5-{2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenylsulfanyl}-indole-1-carboxylic acid tert-butyl ester is isolated and used in the next step whithout further purification. 5-{2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenylsulfanyl}-indole-1-carboxylic acid tert-butyl ester (0.67 g, 1.43 mmol) in methanol (15 mL) and diethyl ether saturated with hydrochloric acid (15 mL) is stirred at room temperature for 1 hour and concentrated in vacuo. Ice/water is added to the remanence and 28% aqueous NaOH is added until pH 9. The aqueous fraction is extracted with ethyl acetate (3×15 mL). Combined organic fractions are dried with MgSO4 and concentrated in vacuo. The product is purified by silica gel chromatography eluting with ethyl acetate-triethyl amine (100:4) followed by ethyl acetate-ethanol-triethyl amine (100:5:5). Upon evaporation of the volatiles, 40 mg (10%) of [2-(1H-indol-5-ylsulfanyl)-benzyl]-methyl-amine is isolated.

reactant | 5-{2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-phenylsulfanyl}-indole-1-carboxylic acid tert-butyl ester | 1.43 mmol, 0.67 g | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)SC1=C(C=CC=C1)CN(C)C(=O)OC(C)(C)C | C26H32N2O4S
reactant | hydrochloric acid | 15 mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | [2-(1H-indol-5-ylsulfanyl)-benzyl]-methyl-amine | 40 mg, 10% | N1C=CC2=CC(=CC=C12)SC1=C(CNC)C=CC=C1 | C16H16N2S
